US03998814
Piperonaldehyde (45 g.), β-anilinopropionitrile (52 g.) and dimethylsulfoxide (96 ml.) were heated together to 120° C and a solution of sodium methylate (2.5 g.) in methanol (12 ml.) was added over a 5 min. period. The temperature was maintained at 115° -120° C for 1 hr. and the mixture was then poured into ice-water. The resulting gum was collected by decantation and was likewise washed with water (2 × 100 ml.). Methanol (100 ml.) was then added and the mixture was heated until solution was complete. Cooling to 5° C gave β-anilino-α-piperonylacrylonitrile as a crystalline solid which was collected, and washed with cold methanol, ether, and pentane. Wt.=45 g. (54%) m.p. 150.5° -151° C (recrystallised from methanol).

reactant | Piperonaldehyde | 45 g | C1OC2=C(O1)C=C(C=C2)C=O | C8H6O3
reactant | β-anilinopropionitrile | 52 g | N(C1=CC=CC=C1)CCC#N | C9H10N2
reactant | dimethylsulfoxide | 96 ml | CS(=O)C | C2H6OS
reactant | sodium methylate | 2.5 g | C[O-].[Na+]
solvent | methanol | 12 ml | CO | CH4O
product | β-anilino-α-piperonylacrylonitrile | N(C1=CC=CC=C1)C=C(C#N)CC1=CC=2OCOC2C=C1 | C17H14N2O2
